US08809376B2
{(S)-6-[(R)-4-(4-Hydroxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
A mixture of {(S)-6-[(R)-4-(4-acetoxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester (0.19 g), K2CO3 (0.08 g), and methanol (5 ml) is stirred at room temperature for 2 h. The solution is neutralized with 1 N aqueous HCl solution and concentrated. Water is added to the residue, and the resulting mixture is extracted with ethyl acetate. The combined extract is dried (MgSO4) and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate) to give the title compound. LC (method 8): tR=1.22 min; Mass spectrum (ESI+): m/z=521 [M+Na]+.

reactant | {(S)-6-[(R)-4-(4-acetoxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | 0.19 g | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CC2=CC=C(C=C2)OC(C)=O)=O | C30H27F3O6
reactant | K2CO3 | 0.08 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | {(S)-6-[(R)-4-(4-Hydroxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CC2=CC=C(C=C2)O)=O | C28H25F3O5
